US04001279
Procedure 3 is illustrated with the preparation of (-)-(RR)-8a' and (+)-(RR)-8b', with (-)-(R)-6f' as a byproduct. In dry pyridine at 0°, N,N-bis-(2-hydroxyethyl)-p-toluenesulfonamide (m.p. 96°-99°) was tosylated with tosyl chloride by the standard method to give N,O,O'-tritosyldiethanolamine, m.p. 85°-87°. [Can. J. Chem. 45, 1555 (1967) gives 78°-79°].

reactant | N,N-bis-(2-hydroxyethyl)-p-toluenesulfonamide | OCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCO | C11H17NO4S
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N,O,O'-tritosyldiethanolamine | S(=O)(=O)(C1=CC=C(C)C=C1)N(CCOS(=O)(=O)C1=CC=C(C)C=C1)CCOS(=O)(=O)C1=CC=C(C)C=C1 | C25H29NO8S3
